US07517875B2
After dissolving 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-methyl ester (940 mg, 1.78 mmol) in dry tetrahydrofuran (18 ml) under a nitrogen stream, aluminum lithium hydride (135 mg, 3.56 mmol) was added at 0° C., and the mixture was stirred for 3 hours. Saturated aqueous sodium sulfate was added, and then the solvent was distilled off under reduced pressure. Since the residue contained water, it was dissolved in ethyl acetate and washed with saturated brine, and the solvent was then distilled off under reduced pressure to obtain a residue. The residue was purified by silica gel column chromatography (dichloromethane/methanol/TEA=90/5/5) to obtain {2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazol-5-yl-}-methanol.

reactant | 2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-benzimidazole-1,5-dicarboxylic acid 1-tert-butyl ester 5-methyl ester | 1.78 mmol, 940 mg | COC(=O)C1=CC2=C(N(C(=N2)NCC2CCN(CC2)CC2=CC=CC3=CC=CC=C23)C(=O)OC(C)(C)C)C=C1 | C31H36N4O4
reactant | aluminum lithium hydride | 3.56 mmol, 135 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | {2-[(1-naphthalen-1-ylmethyl-piperidin-4-ylmethyl)-amino]-1H-benzimidazol-5-yl-}-methanol | C1(=CC=CC2=CC=CC=C12)CN1CCC(CC1)CNC1=NC2=C(N1)C=CC(=C2)CO | C25H28N4O
